US04968682
d. 4-isopropyl-1,2,3,4-tetrahydro-2,3-dioxo pyrido[2,3-b]-pyrazine
To a stirred solution of 3-amino-2-isopropylamino-pyridine (2.0 g, 10.6 mmole) and triethylamine (4.8 ml, 34.6 mmole) in tetrahydrofuran (30 ml) was dropwise added ethoxalyl chloride (2.68 ml, 24 mmole). Stirring was continued for two hours after the addition. The mixture was filtered through a glass filter funnel and the filtrate was evaporated to give the title compound as white crystals. M.p. 246°-247° C.

reactant | 3-amino-2-isopropylamino-pyridine | 10.6 mmole, 2.0 g | NC=1C(=NC=CC1)NC(C)C | C8H13N3
reactant | triethylamine | 34.6 mmole, 4.8 ml | C(C)N(CC)CC | C6H15N
reactant | ethoxalyl chloride | 24 mmole, 2.68 ml | C(=O)(C(=O)OCC)Cl | C4H5ClO3
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-isopropyl-1,2,3,4-tetrahydro-2,3-dioxo pyrido[2,3-b]-pyrazine | C(C)(C)N1C2=C(NC(C1=O)=O)C=CC=N2 | C10H11N3O2
